US08748613B2
PS-DCC (loading: 1.25 mmol/g; 0.99 g, 1.24 mmol) was suspended in dry THF (12 ml). HOBT (0.19 g, 1.24 mmol), 2-phenyl-2-(pyrrolidin-1-yl)acetic acid hydrochloride (0.15 g, 0.62 mmol) and (R)-quinuclidin-3-ol (0.24 g, 1.86 mmol) were sequentially added. The mixture was shaken overnight and then PS-DCC was filtered washing with EtOAc and THF. The solution was evaporated and the residue was dissolved in EtOAc (30 ml) and washed with water (15 ml) and with a sat. NaHCO3 (20 ml). The organic phase was dried (Na2SO4), filtered and evaporated. The crude was purified by flash chromatography (DCM/MeOH=92/8 to 85/15) to obtain (R)-quinuclidin-3-yl 2-phenyl-2-(pyrrolidin-1-yl)acetate (53 mg, 27.2% yield) as a colorless oil.

reactant | DCC | 1.24 mmol, 0.99 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 1.24 mmol, 0.19 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-phenyl-2-(pyrrolidin-1-yl)acetic acid hydrochloride | 0.62 mmol, 0.15 g | Cl.C1(=CC=CC=C1)C(C(=O)O)N1CCCC1
reactant | (R)-quinuclidin-3-ol | 1.86 mmol, 0.24 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-phenyl-2-(pyrrolidin-1-yl)acetate | 53 mg, 27.2% yield | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCC2 | C19H26N2O2
